US08124641B2
A solution of ((R)-4-azido-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (1.25 g, 5.0 mmol) in ethanol (40 mL) was hydrogenated over 10% Pd/C (130 mg) under 30 psi in a 150 mL Parr bottle at room temperature for 1 hour. The reaction mixture was filtered through a pad of Celite® (diatomite filter). The filtrate was collected and concentrated in vacuo to afford ((R)-4-amino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester as an oil (1.10 g, 98%), which was used in the next step without further purification. MS calcd. for C11H17N3O2 223, obsd. (ESI+) [(M+H)+] 224.

reactant | ((R)-4-azido-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 5.0 mmol, 1.25 g | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N=[N+]=[N-])=O | C11H15N5O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | ((R)-4-amino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 1.10 g, 98% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N)=O | C11H17N3O2
